US07728155B2
Treatment of (±)-(5-chloro-7-methoxy-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (22.1 g, 0.06 mol) with hydrogen bromide (30 wt. % in acetic acid, 400 mL) followed by potassium carbonate (4.15 g, 0.03 mol) provided (±)-(5-chloro-7-hydroxy-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate as a brown oil. Treatment of the phenyl with sodium hydride (3.2 g, 0.053 mol) and allyl bromide (6.4 g, 0.053 mol) generally according to the procedure described for Intermediate 37 afforded (±)-[7-(allyloxy)-5-chloro-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate. Treatment of the allyl ether in refluxing mesitylene (250 mL) generally according to the procedure described for Intermediate 1 afforded 4.5 g (19%) of (±)-(6-allyl-5-chloro-7-hydroxy-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate as a pale yellow solid. mp 128-131° C.; Anal. calcd. for C19H19ClO5S: C, 57.79; H, 4.85. Found: C, 58.28; H, 4.68.

reactant | (±)-(5-chloro-7-methoxy-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 0.06 mol, 22.1 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2OC)Cl | C17H17ClO5S
reactant | potassium carbonate | 0.03 mol, 4.15 g | C([O-])([O-])=O.[K+].[K+]
solvent | hydrogen bromide | 400 mL | Br | BrH
product | (±)-(5-chloro-7-hydroxy-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2O)Cl | C16H15ClO5S
